US05750783
tert-Butyl 2-[4-(3-chlorobenzyloxyphenyl)-2-cyclopentyl]-acetate
1 g of tert-butyl 2-(4-hydroxyphenyl)-2-cyclopentyl-acetate (U.S. Pat. No. 834,734) and 1.2 ml of 3-chlorobenzyl bromide are dissolved in 10 ml of DMF and heated at 60°-70° C. for 14 h with 0.9 g of K2 CO3. After cooling, the mixture is treated with water and extracted by shaking with ether and the ether extract is dried. 1.3 g of the title compound are obtained as an oil. Rf =0.48 (cyclohexane / ethyl acetate 9:1)

reactant | tert-butyl 2-(4-hydroxyphenyl)-2-cyclopentyl-acetate | 1 g | OC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)C1CCCC1 | C17H24O3
reactant | 3-chlorobenzyl bromide | 1.2 ml | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | water | O | H2O
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | tert-Butyl 2-[4-(3-chlorobenzyloxyphenyl)-2-cyclopentyl]-acetate | 1.3 g | ClC=1C(=C(C=CC1)C1CC(CC1)CC(=O)OC(C)(C)C)OCC1=CC=CC=C1 | C24H29ClO3
